US07220744B2
d) ((E)-4,4,4-Trifluoro-but-2-ene-2-sulfonyl)-benzene
To a solution of 14.0 mmol rac-(4,4,4-trifluoro-2-iodo-butane-2-sulfonyl)-benzene in 25 ml tetrahydrofuran and 2.5 ml water were added 42.1 mmol triethylamine and 42.1 mmol potassium carbonate. The mixture was heated at 70° C. for 6 h. The reaction mixture was then diluted with ethyl acetate and was washed sequentially with 1 N hydrochloric acid and brine. The organic phase was dried over sodium sulfate and concentrated in vacuo. The residue was purified by chromatography (SiO2, ethyl acetate/heptane) to afford the title compound as a yellow oil (yield 72%). EI-MS (m/e): 250.1 (M+, 15%), 186.1 ([M−SO2]+, 38%), 125.0 (PhSO+, 100%), 77.1 (Ph+, 38%).

reactant | rac-(4,4,4-trifluoro-2-iodo-butane-2-sulfonyl)-benzene | 14.0 mmol | FC(CC(C)(S(=O)(=O)C1=CC=CC=C1)I)(F)F | C10H10F3IO2S
reactant | triethylamine | 42.1 mmol | C(C)N(CC)CC | C6H15N
reactant | potassium carbonate | 42.1 mmol | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | water | 2.5 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ((E)-4,4,4-Trifluoro-but-2-ene-2-sulfonyl)-benzene | yield 72% | FC(/C=C(\C)/S(=O)(=O)C1=CC=CC=C1)(F)F | C10H9F3O2S
